US09353107B2
5-Bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine (7 g, 21.6 mmol) dissolved in dry DMF (50 ml) was added drop wise to a stirred slurry of sodium hydride (1.73 g, 43.2 mmol) in dry DMF (20 ml) at 0° C. and stirred for 30 min. Tosyl chloride (6.15 g, 32.4 mmol) dissolved in dry DMF (14 ml) and added slowly to the above reaction mixture and the reaction temperature was brought to RT and stirred for 30 min. The reaction was monitored by TLC (15% Ethyl acetate in hexane). The reaction mixture was quenched with ice water (500 ml) at 0° C. and filtered the solid precipitated and dried under vacuum to afford 9.92 g (96.3% yield) of 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine MS: m/z=476.8 (M+1).

reactant | 5-Bromo-3-iodo-1H-pyrrolo[2,3-b]pyridine | 21.6 mmol, 7 g | BrC=1C=C2C(=NC1)NC=C2I | C7H4BrIN2
reactant | sodium hydride | 43.2 mmol, 1.73 g | [H-].[Na+]
reactant | Tosyl chloride | 32.4 mmol, 6.15 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 14 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 5-bromo-3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 9.92 g, 96.3% yield | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C)C=C2 | C14H10BrIN2O2S
